US07504508B2
4-Hydroxy-1-methyl-pyrrolidine-2-carboxylic acid (0.27 g, 1.85 mmol) was dissolved in 5 ml methanol at room temperature and (trimethylsilyl)diazomethane (2M solution in hexane) was added until solution become yellow. The mixture was concentrated down to afford crude 4-hydroxy-1-methyl-pyrrolidine-2-carboxylic acid methyl ester, which was converted to 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-1-methylpyrrolidine-2-carboxylic acid following the same procedure as for the preparation of (1R,2R)-2-[(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)methyl]cyclopentanecarboxylic acid.

reactant | 4-Hydroxy-1-methyl-pyrrolidine-2-carboxylic acid | 1.85 mmol, 0.27 g | OC1CC(N(C1)C)C(=O)O | C6H11NO3
reactant | (trimethylsilyl)diazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 5 ml | CO | CH4O
product | 4-hydroxy-1-methyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)C1N(CC(C1)O)C | C7H13NO3
